US09290517B2
Step D: 6-chloro-2-(methylsulfonyl)-3-((2-(trimethylsilyl)ethoxy)methyl)-3H-imidazo[4,5-c]pyridine
To a stirring solution of 6-chloro-2-(methylsulfonyl)-3H-imidazo[4,5-c]pyridine (847 mg, 3.66 mmol) and N,N-diisopropylethylamine (5.11 mL, 29.20 mmol) in anhydrous DMF (25.0 mL) was added 2-(trimethylsilyl)ethoxymethyl chloride (3.24 mL, 18.28 mmol). The reaction was stirred under N2 at RT for 18 h, then added to EtOAc (1.4 L) and washed with saturated NH4Cl (0.3 L). The aqueous layer was separated and back-extracted with EtOAc (0.3 L). The combined organic layers were evaporated under reduced pressure. Flash chromatography of the resulting residue utilizing a 40 g silica RediSep Rf® Gold column and employing a 0-30% EtOAc/hexane gradient afforded the title compound. LC-MS: calculated for C13H20ClN3O3SSi 361.07 observed m/e: 362.31 (M+H)+ (Rt 1.32/2.0 min)

reactant | 6-chloro-2-(methylsulfonyl)-3H-imidazo[4,5-c]pyridine | 3.66 mmol, 847 mg | ClC1=CC2=C(C=N1)NC(=N2)S(=O)(=O)C | C7H6ClN3O2S
reactant | N,N-diisopropylethylamine | 29.20 mmol, 5.11 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-(trimethylsilyl)ethoxymethyl chloride | 18.28 mmol, 3.24 mL | C[Si](CCOCCl)(C)C | C6H15ClOSi
reactant | EtOAc | 1.4 L | CCOC(=O)C | C4H8O2
solvent | DMF | 25.0 mL | CN(C)C=O | C3H7NO
product | 6-chloro-2-(methylsulfonyl)-3-((2-(trimethylsilyl)ethoxy)methyl)-3H-imidazo[4,5-c]pyridine | ClC1=CC2=C(C=N1)N(C(=N2)S(=O)(=O)C)COCC[Si](C)(C)C | C13H20ClN3O3SSi
